US06166006
To a suspension of 1,4-cyclohexanedione monoethyleneketal (3.82 g, 24.6 mmol) and dimethylamine hydrochloride (2.00 g, 24.6 mmol) in 1,2-dichloroethane (50 ml) were dropwise added triethylamine (4.2 ml, 29.6 mmol) and DBU (1,8-diazabicyclo-[5.4.0]-7-undecene) (4.4 ml), and the mixture was stirred for 10 minutes. To the mixture was added triacetoxyborohydride (7.68 g, 34.4 mmol), and the mixture was stirred for 4.5 hours. Precipitate was filtered off, and the filtrate was concentrated to give crude product (6.34 g), which was dissolved in water (10 ml). To the mixture was dropwise added concentrated hydro-chloric acid (6 ml), and the mixture was stirred for 48 hours. The reaction mixture was diluted with water and washed twice with ether. The aqueous layer was made basic with sodium hydroxide and extracted with ether twice. The extract was washed with saturated sodium chloride solution, dried with potassium carbonate and purified by evaporation to give 4-dimethylaminocyclohexanone (0.59 g, 17%).

reactant | 1,4-cyclohexanedione monoethyleneketal | 24.6 mmol, 3.82 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | dimethylamine hydrochloride | 24.6 mmol, 2.00 g | Cl.CNC
reactant | triethylamine | 29.6 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | triacetoxyborohydride | 34.4 mmol, 7.68 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | hydro-chloric acid | 6 ml | Cl | ClH
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | water | 10 ml | O | H2O
product | 4-dimethylaminocyclohexanone | 0.59 g, 17% | CN(C1CCC(CC1)=O)C | C8H15NO
